US09120749B2
1-(6-bromo-4-(6-(2-(dimethylamino)ethoxy)pyridin-3-ylamino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (5.0 g, 18.0 mmol) was reacted with 6-(2-(dimethylamino)ethoxy)pyridin-3-amine (3.5 g, 19.0 mmol) to afford the desired product (5.7 g, 82%) as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 11.90 (s, 1H), 9.12 (s, 1H), 8.08-7.98 (m, 1H), 7.87-7.76 (m, 1H), 7.74-7.63 (m, 2H), 7.33 (dd, J=8.8, 2.8 Hz, 1H), 6.83 (d, J=8.8 Hz, 1H), 4.44 (t, J=5.5 Hz, 2H), 2.78 (s, 3H), 2.74 (t, J=8.8 Hz, 2H), 2.36 (s, 6H).

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 18.0 mmol, 5.0 g | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 6-(2-(dimethylamino)ethoxy)pyridin-3-amine | 19.0 mmol, 3.5 g | CN(CCOC1=CC=C(C=N1)N)C | C9H15N3O
product | 1-(6-bromo-4-(6-(2-(dimethylamino)ethoxy)pyridin-3-ylamino)quinolin-3-yl)ethanone | 5.7 g, 82% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NC(=CC1)OCCN(C)C | C20H21BrN4O2
